US07256198B2
Step 4: 3′,4′-Dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indol]-8′-amine
5′-Amino-1′-(3-aminopropyl)spiro[1,3-dioxane-2,3′-indol]-2′(1′H)-one (1.56 g, 5.63 mmol) was dissolved in 2M EtOAc.NH3 (1.90 mL) and THF (10 mL) and heated in a steel pressure vessel at 135° C. for 16 hr. The reaction mixture was cooled to room temperature and combined with silica gel and concentrated. The adsorbate was purified on Biotage KP silica gel eluting with a step gradient of CH2Cl2/CH3OH/NH4OH (95/3/2) to (85/10/5) to give the title compound as a bright yellow-orange solid (1.11 g, 76% yield). NMR (300 Mz, DMSO-d6): consistent.

reactant | 5′-Amino-1′-(3-aminopropyl)spiro[1,3-dioxane-2,3′-indol]-2′(1′H)-one | 5.63 mmol, 1.56 g | NC=1C=C2C3(C(N(C2=CC1)CCCN)=O)OCCCO3 | C14H19N3O3
reactant | NH3 | 1.90 mL | N | H3N
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 2M | CCOC(=O)C | C4H8O2
product | 3′,4′-Dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indol]-8′-amine | 1.11 g, 76% yield | N=1CCCN2C1C1(C=3C=C(C=CC23)N)OCCCO1 | C14H17N3O2
